US04654343
N-Methyl-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]butanamide
A mixture of 2 g of N-[3-(3-methyl-1,2,4-triazolo[4,3-b]-pyridazin-6-yl)phenyl]butanamide, 0.32 g sodium hydride (50% in oil), 0.41 ml of methyl iodide and 200 ml of dimethylformamide was reacted in the manner described in Example 2. The desired product was obtained as white crystals, 1.45 g, mp 140°-143° C.

reactant | N-[3-(3-methyl-1,2,4-triazolo[4,3-b]-pyridazin-6-yl)phenyl]butanamide | 2 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC(CCC)=O | C16H17N5O
reactant | sodium hydride | 0.32 g | [H-].[Na+]
reactant | methyl iodide | 0.41 ml | CI | CH3I
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-Methyl-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]butanamide | CN(C(CCC)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C | C17H19N5O
